US06281243B1
(S)-(+)-3-[(2,3-Dihydro-5-methoxy-1H-inden-4-yl)oxy]-pyrrolidine hydrochloride
3-[(5,6,7,8-Tetrahydro-1-naphthalenyl)oxy]-pyrrolidine hydrochloride m.p. 207° C., starting from 3-[(5,6,7,8-tetrahydro-1-naphthalenyl)oxy]-1-(phenylmethyl)-pyrrolidine

reactant | 3-[(5,6,7,8-Tetrahydro-1-naphthalenyl)oxy]-pyrrolidine hydrochloride | Cl.C1(=CC=CC=2CCCCC12)OC1CNCC1
reactant | 3-[(5,6,7,8-tetrahydro-1-naphthalenyl)oxy]-1-(phenylmethyl)-pyrrolidine | C1(=CC=CC=2CCCCC12)OC1CN(CC1)CC1=CC=CC=C1 | C21H25NO
product | (S)-(+)-3-[(2,3-Dihydro-5-methoxy-1H-inden-4-yl)oxy]-pyrrolidine hydrochloride | Cl.COC=1C(=C2CCCC2=CC1)O[C@@H]1CNCC1 | InChI=1S/C14H19NO2.ClH/c1-16-13-6-5-10-3-2-4-12(10)14(13)17-11-7-8-15-9-11;/h5-6,11,15H,2-4,7-9H2,1H3;1H/t11-;/m0./s1
